US09238639B2
A) Ethyl 4-methyl-2-(trifluoromethyl)-1,3-thiazole-5-carboxylate
To a mixture of 2,2,2-trifluoroethanethioamide (200 mg) and t-BuOH (10 mL) was added ethyl 2-chloro-3-oxobutanoate (0.217 mL) at room temperature. The mixture was refluxed for 2 days. After cooling, EtOAc was poured into the mixture, and the mixture was washed successively with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (133 mg).

reactant | 2,2,2-trifluoroethanethioamide | 200 mg | FC(C(N)=S)(F)F | C2H2F3NS
reactant | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
reactant | ethyl 2-chloro-3-oxobutanoate | 0.217 mL | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 4-methyl-2-(trifluoromethyl)-1,3-thiazole-5-carboxylate | 133 mg | CC=1N=C(SC1C(=O)OCC)C(F)(F)F | C8H8F3NO2S
